.subckt buf1 in out vdd
XI0_XXNA1 ny in 0 0 nlvt11ll_ckt w=2.6e-07 l=4e-08
XI1_XXNA1 0 ny out 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI1_XXNA1_2 out ny 0 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI1_XXNA1_3 0 ny out 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI0_XXPA1 ny in vdd vdd plvt11ll_ckt w=3.4e-07 l=4e-08
XI1_XXPA1 vdd ny out vdd plvt11ll_ckt w=4e-07 l=4e-08
XI1_XXPA1_2 out ny vdd vdd plvt11ll_ckt w=4e-07 l=4e-08
XI1_XXPA1_3 vdd ny out vdd plvt11ll_ckt w=4e-07 l=4e-08
.ends buf1
