.subckt buf3 in out vdd
XI0_XXNA1 0 in ny 0 nlvt11ll_ckt w=2.2e-07 l=4e-08
XI0_XXNA1_2 ny in 0 0 nlvt11ll_ckt w=2.2e-07 l=4e-08
XI1_XXNA1 0 ny out 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI1_XXNA1_2 out ny 0 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI1_XXNA1_3 0 ny out 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI1_XXNA1_4 out ny 0 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI1_XXNA1_5 0 ny out 0 nlvt11ll_ckt w=3.1e-07 l=4e-08
XI0_XXPA1 vdd in ny vdd plvt11ll_ckt w=2.8e-07 l=4e-08
XI0_XXPA1_2 ny in vdd vdd plvt11ll_ckt w=2.8e-07 l=4e-08
XI1_XXPA1 vdd ny out vdd plvt11ll_ckt w=4e-07 l=4e-08
XI1_XXPA1_2 out ny vdd vdd plvt11ll_ckt w=4e-07 l=4e-08
XI1_XXPA1_3 vdd ny out vdd plvt11ll_ckt w=4e-07 l=4e-08
XI1_XXPA1_4 out ny vdd vdd plvt11ll_ckt w=4e-07 l=4e-08
XI1_XXPA1_5 vdd ny out vdd plvt11ll_ckt w=4e-07 l=4e-08
.ends buf3
