.subckt buf0 in out vdd
mp1  tmp in  vdd vdd   pmos l=45n w=2u
mn1  tmp in  0   0     nmos l=45n w=1.37u 
mp2  out tmp  vdd vdd   pmos l=45n w=2u
mn2  out tmp  0   0     nmos l=45n w=1.37u 
.ends buf0
